US06984741B2
Synthesis of Methyl 2-(1-methoxycarbonylpentoxy)benzoate
15.2 g of methyl salicylate and 18.0 g of potassium carbonate were introduced into 125 ml of acetonitrile in a 250 ml flask under an argon atmosphere and, at room temperature, 20.9 g of methyl 2-bromohexanoate were added. The colourless suspension was heated under reflux with stirring for 16 hours, and the progress of the reaction was checked by thin-layer chromatography. After cooling to room temperature, the suspension was filtered and the residue was washed with acetone. Concentration of the filtrate in vacuo resulted in 27.8 g (99% of theory) of methyl 2-(1-methoxycarbonylpentoxy)benzoate as yellow oil.

reactant | methyl salicylate | 15.2 g | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
reactant | potassium carbonate | 18.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-bromohexanoate | 20.9 g | BrC(C(=O)OC)CCCC | C7H13BrO2
solvent | acetonitrile | 125 ml | C(C)#N | C2H3N
product | Methyl 2-(1-methoxycarbonylpentoxy)benzoate | COC(=O)C(CCCC)OC1=C(C(=O)OC)C=CC=C1 | C15H20O5
